* Extracted by KLayout with SG13G2 LVS runset on : 13/03/2026 09:06

.SUBCKT sg13g2_Filler200 iovss1 iovss2 iovss3 vss
R$1 \$1 vss ptap1 A=0.678p P=5.12u
R$2 \$1 iovss3 ptap1 A=13.748p P=50.22u
R$3 \$1 iovss2 ptap1 A=13.4736p P=49.24u
R$4 \$1 iovss1 ptap1 A=13.7536p P=50.24u
.ENDS sg13g2_Filler200
