** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadVdd.sch
.subckt sg13g2_IOPadVdd vss vdd ! iovss iovdd iovss1
*.PININFO iovdd:B vss:B vdd:B !:B iovss1:B iovss:B
R2 vss ! ptap1 A=24p P=160.6u
R1 iovss1 ! ptap1 A=2051.93485p P=727.53u
x1 iovss vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd vdd ! net2 sg13g2_Clamp_N43N43D4R
x2 vdd net1 ! sg13g2_RCClampResistor
x3 vdd iovss1 net1 net2 ! sg13g2_RCClampInverter_noptap
* noconn iovdd
.ends

* expanding   symbol:  sg13g2_Clamp_N43N43D4R.sym # of pins=4
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N43N43D4R.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N43N43D4R.sch
.subckt sg13g2_Clamp_N43N43D4R iovss pad[21] pad[20] pad[19] pad[18] pad[17] pad[16] pad[15] pad[14] pad[13] pad[12] pad[11]
+ pad[10] pad[9] pad[8] pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub gate
*.PININFO iovss:B pad[21:0]:B sub:B gate:B
R1 iovss sub ptap1 A=65.6472p P=386.16u
MM1 pad[11] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM2 pad[12] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM3 pad[13] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM4 pad[14] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM5 pad[15] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM6 pad[16] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM7 pad[17] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM8 pad[18] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM9 pad[19] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM10 pad[20] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM11 pad[21] gate iovss sub sg13_hv_nmos w=17.6u l=0.6u ng=4 m=1
DD1 sub gate dantenna l=0.48u w=0.48u
MM12 pad[0] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM13 pad[1] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM14 pad[2] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM15 pad[3] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM16 pad[4] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM17 pad[5] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM18 pad[6] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM19 pad[7] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM20 pad[8] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM21 pad[9] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
MM22 pad[10] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
.ends


* expanding   symbol:  sg13g2_RCClampResistor.sym # of pins=3
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_RCClampResistor.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_RCClampResistor.sch
.subckt sg13g2_RCClampResistor p1 p2 !
*.PININFO p1:B p2:B !:B
RR1 p1 p2 $SUB=sub! $[rppd] w=1e-6 l=520e-6 b=0 m=1
.ends


* expanding   symbol:  sg13g2_RCClampInverter_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_RCClampInverter_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_RCClampInverter_noptap.sch
.subckt sg13g2_RCClampInverter_noptap supply iovss in out sub
*.PININFO supply:B iovss:B out:B in:B sub:B
MM1 iovss in iovss sub sg13_hv_nmos w=126u l=9.5u ng=14 m=1
MM2 out in iovss sub sg13_hv_nmos w=108u l=0.5u ng=12 m=1
MM3 out in supply supply sg13_hv_pmos w=350u l=0.5u ng=50 m=1
.ends

