* Extracted by KLayout with SG13G2 LVS runset on : 13/03/2026 09:04

.SUBCKT sg13g2_Filler2000 iovss1 iovss2 iovss3 vss
R$1 \$1 vss ptap1 A=2.85p P=19.6u
R$2 \$1 iovss3 ptap1 A=233.225p P=68.1u
R$3 \$1 iovss2 ptap1 A=228.57p P=67.12u
R$4 \$1 iovss1 ptap1 A=233.32p P=68.12u
.ENDS sg13g2_Filler2000
